US08754100B2
Synthesis of methyl 5-chloro-2-(5-isopropyl-4-methoxy-2-methylphenyl)pentanoate
60% sodium hydride (928 mg) was suspended in anhydrous N,N-dimethylformamide (50 mL). A solution of methyl (5-isopropyl-4-methoxy-2-methylphenyl)acetate (5 g) in anhydrous N,N-dimethylformamide (30 mL) was added in a nitrogen atmosphere, so that the internal temperature was maintained at 4 to 6° C. After stirring at the same temperature for five minutes, 1-chloro-3-iodopropane (4.5 mL) was added so that the internal temperature was maintained at 4 to 6° C. After addition of the reagent, the mixture was brought back to room temperature and stirred for four hours. Ethyl acetate was added to the reaction solution, followed by washing with water. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (7.7 g). The property values of the compound are as follows.

reactant | sodium hydride | 928 mg | [H-].[Na+]
reactant | methyl (5-isopropyl-4-methoxy-2-methylphenyl)acetate | 5 g | C(C)(C)C=1C(=CC(=C(C1)CC(=O)OC)C)OC | C14H20O3
reactant | 1-chloro-3-iodopropane | 4.5 mL | ClCCCI | C3H6ClI
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | methyl 5-chloro-2-(5-isopropyl-4-methoxy-2-methylphenyl)pentanoate | 7.7 g | ClCCCC(C(=O)OC)C1=C(C=C(C(=C1)C(C)C)OC)C | C17H25ClO3
